US07902252B2
4.13. Synthesis of ethyl 6-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.3 g, 1.55 mmol) was reacted with 4-chlorophenyl magnesium bromide (6.2 mL, 1 M in ether, 6.2 mmol, 4 equiv) according to General Procedure 3 to give the endocyclic olefin-containing compound ethyl 6-(4-chlorophenyl)-1,4-dihydrocyclopenta[b]pyrrole-2-carboxylate, followed by hydrogenation according to General Procedure 6, and was purified by column chromatography (Isco CombiFlash) using a 0-30% gradient (EtOAc/Heptane) over 22 minutes. 90.7 mg. LCMS m/e 312 (M+Na). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.33 (t, J=7.11 Hz, 3H), 2.27 (dddd, J=12.83, 8.60, 6.36, 6.21 Hz, 1H), 2.58-2.83 (m, 2H), 2.85-3.01 (m, J=12.81, 8.47, 8.47, 4.28 Hz, 1H), 4.27 (tt, J=7.12, 3.63 Hz, 3H), 6.73 (d, J=1.64 Hz, 1H), 7.06 (q, J=4.42 Hz, 2H), 7.28 (d, J=8.35 Hz, 2H), 8.63 (br. s, 1H).

reactant | ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 1.55 mmol, 0.3 g | O=C1CCC2=C1NC(=C2)C(=O)OCC | C10H11NO3
reactant | 4-chlorophenyl magnesium bromide | 6.2 mmol, 1 M, 6.2 mL, 4 equiv | ClC1=CC=C(C=C1)[Mg]Br
product | ethyl 6-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | ClC1=CC=C(C=C1)C1CCC2=C1NC(=C2)C(=O)OCC | C16H16ClNO2
